US05001140
A mixture of 473 g (5.5 mol) of 3-pentanone, 565 g (5 mol) of ethyl cyanoacetate, 60 g (1 mol) of acetic acid, 38.5 g (0.5 mol) of ammonium acetate and 500 ml of toluene was stirred and heated under a Dean-Stark trap for 7 hr. and then allowed to stand for 2 days at room temperature. The reaction mixture was washed three times with 1 l of water and concentrated on the rotary evaporator at a low temperature. The residue was distilled in vacuum to give 460 g of ethyl 2-cyano-3,3-diethylacrylate, bp 118°-120°/8 mm.

reactant | 3-pentanone | 5.5 mol, 473 g | CCC(CC)=O | C5H10O
reactant | ethyl cyanoacetate | 5 mol, 565 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | acetic acid | 1 mol, 60 g | C(C)(=O)O | C2H4O2
reactant | ammonium acetate | 0.5 mol, 38.5 g | C(C)(=O)[O-].[NH4+]
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 2-cyano-3,3-diethylacrylate | 460 g | C(#N)C(C(=O)OCC)=C(CC)CC | C10H15NO2
